US07309712B2
Preparation 9: 4-(3,5-Dicyclopropyl-1H-pyrazol-4-yloxy)-benzonitrile
The 4-(1-cyclopropanecarbonyl-2-cyclopropyl-2-oxo-ethoxy)-benzonitrile (44 g, 162 mmol) was dissolved in acetic acid (500 ml). A solution of hydrazine hydrate (8.7 ml, 179 mmol) in ethanol (50 ml) was then added at room temperature and the reaction mixture was heated to 90° C. for approximately 3 hours. The solvents were then evaporated under reduced pressure and the residues were partitioned between diethyl ether (600 ml) and dilute aqueous ammonium hydroxide (25 ml concentrated ammonium hydroxide in 500 ml water), and the layers were separated. The aqueous layer was further extracted with diethyl ether (3×200 ml) and the combined organic layers were washed with water (2×50 ml), dried over magnesium sulphate, filtered and concentrated under reduced pressure. The solid was slurried in diisopropyl ether (50 ml), filtered and rinsed with diisopropyl ether (2×30 ml) and pentane (2×100 ml) to provide the title compound (39.5 g, 58%) as a colourless solid. 1H-NMR (400 MHz, CDCl3): δ=0.76-0.81 (m, 8H), 1.59-1.65 (m, 2H), 7.01 (d, 2H), 7.60 (d, 2H); LRMS: APCl+: m/z 266 [MH+]; APCl−: m/z 264 [M−H]−.

reactant | 4-(1-cyclopropanecarbonyl-2-cyclopropyl-2-oxo-ethoxy)-benzonitrile | 162 mmol, 44 g | C1(CC1)C(=O)C(C(=O)C1CC1)OC1=CC=C(C#N)C=C1 | C16H15NO3
reactant | hydrazine hydrate | 179 mmol, 8.7 ml | O.NN
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3,5-Dicyclopropyl-1H-pyrazol-4-yloxy)-benzonitrile | 39.5 g, 58% | C1(CC1)C1=NNC(=C1OC1=CC=C(C#N)C=C1)C1CC1 | C16H15N3O
